US07786142B2
Step 2: Preparation of 1-(9H-carbazol-4-yloxy)-3-[(2,4-dimethoxybenzyl)amino]propan-2-ol
To a stirred solution of Epoxy carbazole (5 gm, 0.0209 mole) in IPA (20 ml), 2,4-dimethoxybenzylamine (9.42 ml, 0.06276 moles) was added, and the reaction mixture was heated to reflux for 3 hours. Subsequently the reaction mixture was cooled and IPA was stripped off. To the semisolid residue obtained, ethyl acetate (50 ml) was added and it was refluxed for 1.5 hours, until everything dissolved. A light yellow colored clear solution was finally obtained, which was stirred at room temperature for 5 hours when it completely crystallized out as a white solid (8 g, 94.2%), m.p: 152-154° C., 1H NMR (400 MHz, CDCl3): δ 2.89(m 1H), 2.99(d 1H), 3.74(s 3H), 3.78(s 3H), 3.81(d 2H), 4.27(m, 3H), 6.42(m 2H), 6.65(d 1H), 7.08(d 1H), 7.14(m 2H), 7.29(m 1H), 7.35(d 1H), 7.43(d 1H), 8.22(d 1H), 9.42(s 1H); m/zM+1 406.

reactant | Epoxy carbazole | 0.0209 mole, 5 gm | O1C2=C1C=CC=1C3=CC=CC=C3NC21 | C12H7NO
reactant | 2,4-dimethoxybenzylamine | 0.06276 moles, 9.42 ml | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | IPA | 20 ml | CC(C)O | C3H8O
product | 1-(9H-carbazol-4-yloxy)-3-[(2,4-dimethoxybenzyl)amino]propan-2-ol | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CNCC1=C(C=C(C=C1)OC)OC)O | C24H26N2O4
